US06956033B2
1,3,3-trimethyl-3,4-dihydroisoquinolin
To conc. sulfuric acid (10 ml) was added a solution of 2-methyl-1-phenylpropan-2-ol (7.0 g) and acetonitrile (1.62 ml) in benzene (7.0 ml) dropwise and the mixture was stirred for 24 hours at room temperature. The mixture was neutralized by adding to a mixture of ice and a saturated aqueous solution of sodium bicarbonate dropwise, and it was extracted with ethyl acetate twice. The extract was dried over anhydrous magnesium sulfate and was concentrated under reduced pressure. The residue was dissolved in ether and was extracted with 1N hydrochloric acid and 2N hydrochloric acid. The extract was washed with ether and to the mixture was added 5N aqueous solution of sodium hydroxide and was extracted with ether twice. The extract was washed with water and a saturated aqueous solution of sodium chloride successively, and dried over anhydrous magnesium sulfate and was concentrated under reduced pressure to give the title compound (2.53 g) having the following physical data.

reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-1-phenylpropan-2-ol | 7.0 g | CC(CC1=CC=CC=C1)(C)O | C10H14O
reactant | acetonitrile | 1.62 ml | C(C)#N | C2H3N
solvent | benzene | 7.0 ml | C1=CC=CC=C1 | C6H6
product | 1,3,3-trimethyl-3,4-dihydroisoquinolin | 2.53 g | CC1=NC(CC2=CC=CC=C12)(C)C | C12H15N
